US08957203B2
To a degassed solution of 2,4-dichloro-7-methoxyquinoline (1 g, 4.3 mmol) in dioxane/water (8:2) was added 4-isopropoxyphenylboronic acid (870 mg, 4.82 mmol) followed by potassium carbonate (1.2 g, 8.7 mmol) and Pd(PPh3)4 (253 mg, 0.22 mmol) at room temperature under nitrogen atmosphere. The reaction mass was heated at 90° C. for 18 h. The solvent was removed under reduced pressure and the residue was diluted with water and extracted with ethyl acetate. The combined organic layer was dried over anhydrous sodium sulphate and evaporated under reduced pressure to get crude compound. The crude compound was purified by silica gel chromatography to afford 4-chloro-2-(4-isopropoxyphenyl)-7-methoxyquinoline (1.2 g, 85%) as off white solid. MS: MS m/z 328.7 (M++1).

reactant | 2,4-dichloro-7-methoxyquinoline | 4.3 mmol, 1 g | ClC1=NC2=CC(=CC=C2C(=C1)Cl)OC | C10H7Cl2NO
reactant | 4-isopropoxyphenylboronic acid | 4.82 mmol, 870 mg | C(C)(C)OC1=CC=C(C=C1)B(O)O | C9H13BO3
reactant | potassium carbonate | 8.7 mmol, 1.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane water | O1CCOCC1.O
catalyst | Pd(PPh3)4 | 0.22 mmol, 253 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-chloro-2-(4-isopropoxyphenyl)-7-methoxyquinoline | 1.2 g, 85% | ClC1=CC(=NC2=CC(=CC=C12)OC)C1=CC=C(C=C1)OC(C)C | C19H18ClNO2
